US04530929
A solution of 2,3-dihydro-2-oxo-1H-indole-7-propanoic acid (2.0 g, 0.0098 mole) in acetic anhydride (8 ml) is heated to 90° C. with stirring for one hour. Excess acetic anhydride is removed at reduced pressure. The red crystalline material is purified by flash chromatography over silica (elution with 23:2 dichloromethane:diethyl ether). Final purification by fractional sublimation yields 5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-2,4(1H)-dione, mp 194°-197° C.

reactant | 2,3-dihydro-2-oxo-1H-indole-7-propanoic acid | 0.0098 mole, 2.0 g | O=C1NC2=C(C=CC=C2C1)CCC(=O)O | C11H11NO3
solvent | acetic anhydride | 8 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-2,4(1H)-dione | C1C(N2C(CCC3=CC=CC1=C23)=O)=O | C11H9NO2
